US08134001B2
Preparation of intermediate 4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-phenol
To a stirred solution of hydroquinone (Aldrich, 11.01 g, 100 mmol) in DMF (300 mL), (2-bromo-ethoxy)-tert-butyl-dimethyl-silane (Aldrich, 12.0 g, 50 mmol), cesium carbonate (40.7 g, 125 mol) were added and the mixture was stirred at 60° C. overnight. The mixture was poured into water (300 mL) and 6N HCl was added to adjust the “pH” to 6. The mixture was extracted with EtOAc (3×60 mL) and the extracts were combined and dried. Removal of solvent gave the crude, which was chromatographied on a ISCO machine eluting with EtOAc/hexane (0-30%) to give a light brown solid. 5.71 g.

reactant | hydroquinone | 100 mmol, 11.01 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | (2-bromo-ethoxy)-tert-butyl-dimethyl-silane | 50 mmol, 12.0 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | cesium carbonate | 125 mol, 40.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | HCl | 6N | Cl | ClH
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
solvent | water | 300 mL | O | H2O
product | 4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-phenol | C(C)(C)(C)[Si](OCCOC1=CC=C(C=C1)O)(C)C | C14H24O3Si
